US07723330B2
Step B: Preparation of ±(3S*,4S*)-tert-butyl 4-(1-(4-methoxybenzyl)-4-(2-fluoro-4-(1-(4-fluorophenyl)-6-oxo-1,6-dihydropyridazine-5-carboxamido)phenoxy)-1H-pyrazolo[3,4-b]pyridin-3-ylamino)-3-fluoropiperidine-1-carboxylate:
Prepared from 2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxylic acid (50.8 mg, 0.217 mmol, prepared according to the procedure for Example 19, Step C) and ±(3S*,4S*)-tert-butyl 4-(1-(4-methoxybenzyl)-4-(4-amino-2-fluorophenoxy)-1H-pyrazolo[3,4-b]pyridin-3-ylamino)-3-fluoropiperidine-1-carboxylate (63 mg, 0.109 mmol) according to the procedure described for Example 143, Step B. Yield: 17 mg (20%).

reactant | 2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxylic acid | FC1=CC=C(C=C1)N1N=CC=C(C1=O)C(=O)O | C11H7FN2O3
reactant | (3S*,4S*)-tert-butyl 4-(1-(4-methoxybenzyl)-4-(4-amino-2-fluorophenoxy)-1H-pyrazolo[3,4-b]pyridin-3-ylamino)-3-fluoropiperidine-1-carboxylate | 0.109 mmol, 63 mg | COC1=CC=C(CN2N=C(C=3C2=NC=CC3OC3=C(C=C(C=C3)N)F)N[C@@H]3[C@H](CN(CC3)C(=O)OC(C)(C)C)F)C=C1 | C30H34F2N6O4
product | (3S*,4S*)-tert-butyl 4-(1-(4-methoxybenzyl)-4-(2-fluoro-4-(1-(4-fluorophenyl)-6-oxo-1,6-dihydropyridazine-5-carboxamido)phenoxy)-1H-pyrazolo[3,4-b]pyridin-3-ylamino)-3-fluoropiperidine-1-carboxylate | COC1=CC=C(CN2N=C(C=3C2=NC=CC3OC3=C(C=C(C=C3)NC(=O)C3=CC=NN(C3=O)C3=CC=C(C=C3)F)F)N[C@@H]3[C@H](CN(CC3)C(=O)OC(C)(C)C)F)C=C1 | C41H39F3N8O6
